US04791055
Preparation of biotin-umbelliferone conjugate
A reaction mixture was formed by dissolving in 10 ml of dimethylformamide 100 mg of unbelliferone, 167 mg of biotin, and 141 mg of dicyclohexyl carbodiimide. The reaction mixture was incubated at -18° C. for about 4 hours, then overnight at 7° C. and allowed to stand at room temperature for from 3 to 4 hours. An additional 141 mg of dicyclohexylcarbodiimide was added and the reaction mixture was stirred at 7° C. for from 3 to 4 hours and allowed to stand at room temperature overnight. The resulting precipitate was filtered off and discarded. To the filtrate was added 75 ml of ice water, and the resulting mixture was incubated at 0° C. for 1 hour. The precipitate which resulted was filtered off and discarded. The filtrate was evaporated to dryness and the residue dissolved in from 3 to 4 ml of methylene chloride. To the resulting solution was added 5 ml of diethylether. The resulting precipitate which comprised the biotin-umbelligerone conjugate was filtered off, dried, and stored at room temperature.

reactant | biotin | 167 mg | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
reactant | dicyclohexyl carbodiimide | 141 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dicyclohexylcarbodiimide | 141 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | dimethylformamide | 10 ml, 100 mg | CN(C=O)C | C3H7NO
product | biotin umbelliferone | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12.C1=CC2=C(C=C1O)OC(=O)C=C2 | InChI=1S/C10H16N2O3S.C9H6O3/c13-8(14)4-2-1-3-7-9-6(5-16-7)11-10(15)12-9;10-7-3-1-6-2-4-9(11)12-8(6)5-7/h6-7,9H,1-5H2,(H,13,14)(H2,11,12,15);1-5,10H/t6-,7-,9-;/m0./s1
